US07855201B2
Step 5: 2-Methyl-N-(2,3,4,5-tetrahydro-1-benzoxepin-8-ylmethyl)propan-1-amine
To a mixture of 0.48 g (2.7 mmol) of 2,3,4,5-tetrahydro-1-benzoxepine-8-carbaldehyde and 1.33 mL (13.5 mmol, 5 equiv) of isobutylamine in 22 mL of 1,2-dichloroethane was added 0.86 mL (15.0 mmol, 5.5 equiv) of acetic acid. The mixture was stirred under nitrogen at ambient temperature for 20 minutes and 0.64 g (3.0 mmol, 1.1 equiv) of sodium triacetoxyborohydride was added. The mixture was stirred overnight then diluted with 125 mL of ethyl acetate and washed with 60 mL each of saturated sodium bicarbonate solution, water and brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure to give 0.67 g of a yellow oil. Purification by flash chromatography (0-10% methanol in ethyl acetate) gave the product as a colorless oil. MS (m+1)=234.2; 1H NMR (400 MHz, CDCl3) 7.07 (d, 1H, J 8 Hz), 7.09 (d, 1H, J 1.5 Hz), 6.99 (m, 1H), 3.99 (m, 2H), 3.72 (s, 2H), 2.70 (m, 2H), 2.43 (d, 2H, J 7 Hz), 1.95 (m, 2H), 1.77 (m, 1H), 1.71 (m, 2H), 1.5 (br s, 1H), 0.91 (d, 6H, J 7 Hz).

reactant | 2,3,4,5-tetrahydro-1-benzoxepine-8-carbaldehyde | 2.7 mmol, 0.48 g | O1CCCCC2=C1C=C(C=C2)C=O | C11H12O2
reactant | isobutylamine | 13.5 mmol, 1.33 mL, 5 equiv | C(C(C)C)N | C4H11N
reactant | acetic acid | 15.0 mmol, 0.86 mL, 5.5 equiv | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 3.0 mmol, 0.64 g, 1.1 equiv | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 22 mL | ClCCCl | C2H4Cl2
solvent | ethyl acetate | 125 mL | C(C)(=O)OCC | C4H8O2
product | 2-Methyl-N-(2,3,4,5-tetrahydro-1-benzoxepin-8-ylmethyl)propan-1-amine | 0.67 g | CC(CNCC1=CC2=C(CCCCO2)C=C1)C | C15H23NO
